US04617238
Eugenol (4-allyl-2-methoxyphenol) was reacted with 2-chloroethyl vinyl ether to produce o-methoxy-para-allyl-2-vinyloxyethoxy benzene (MAVB). 77 parts by weight of MAVB were dispersed in approximately 350 parts by weight toluene with 0.05 parts by weight of a platinum catalyst. 200 parts by weight of a 95 cps silicone copolymer fluid containing approximately 9.9% Si--H groups were added to the toluene solution. The reaction mixture was then refluxed overnight to where Si--H functionality was below about 1%. The toluene was stripped off under vacuum to yield a 300 cps fluid product.

reactant | Eugenol | C=1(C(O)=CC=C(CC=C)C1)OC | C10H12O2
reactant | 2-chloroethyl vinyl ether | C(=C)OCCCl | C4H7ClO
product | o-methoxy-para-allyl-2-vinyloxyethoxy benzene | COC1=C(C=CC(=C1)CC=C)OCCOC=C | C14H18O3
